datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[N:62]1CCC[N:12]2CCC[N:10]=[C:11]21.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>C[N:62]1CCC[N+:12]2=[C:11]1[N:10]([C:20]([C:31]1=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)CCC2 10,11=10,20;12=11,12"
"CC[O:62]/[C:11](=[CH:10]/[C:71]#[N:72])[O-:12].N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>CC[O:62][C:11]([CH:10]([CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[C:71]#[N:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:32](=[O:33])[C:21](=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:22]2=[O:23].CC[O:82][C:71]([C-:10]([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72]>>CC[O:82][C:71]([C:10]([CH:20]([C:21]1=[C:22]([O-:23])C2=C(C=CC=C2)[C:32]1=[O:33])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:61](=[O:62])[O:112]CC)[C:91]1=[CH:92][CH:93]=[C:94]([N+:95](=[O:96])[O-:97])[CH:103]=[CH:102]1)=[O:72] 10=20;20,21=21,22;22,23=23"
"CC[O:82][C:71](/[CH:10]=[C:11](\[O-:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)=[O:72].C[C:22]1=[N+:23](C)C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1>>CC[O:82][C:71]([CH:10]([C:11](=[O:12])[C:62]1=[CH:63][CH:64]=[C:65]([N+:66](=[O:67])[O-:97])[CH:94]=[CH:93]1)[CH:20]([C:21]1=[C:22](C)[N:23](C)C2=C1C=CC=C2)[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)=[O:72] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC=C([C:10](=[C:11]=[N-:12])[S:61](C2=CC=CC=C2)(=[O:62])=[O:72])C=C1.O=C([O-])C1CC2=C(C=CC=C2)/[N+:23]1=[CH:22]/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>O=C([O-])C1CC2=C(C=CC=C2)[N:23]1[CH:22]=[CH:21][CH:20]([C:10](C1=CC=CC=C1)([C:11]#[N:12])[S:61](C1=CC=CC=C1)(=[O:62])=[O:72])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[N:10](C)[N:61]=[CH2:62].C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[C:42]([C:43]2=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]2)[C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>C[N+:10](C)([CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]1)[CH:41]=[C:42]([C:43]1=[CH:44][CH:45]=[C:46]([N:49](C)C)[CH:47]=[CH:48]1)[C:53]1=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]1)[N:61]=[CH2:62] 10=20
"CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C.CN1C(=O)[C@H](CC2=CC=CC=C2)[N:12](/[CH:11]=[CH:10]/C2=CC=CC=C2)[C@@H]1C(C)(C)C>>CN1C(=O)[C@H](CC2=CC=CC=C2)[N+:12](=[CH:11][CH:10](C2=CC=CC=C2)[CH:20]([CH:21]=[CH:22][N:23]2C(CC3=CNC4=CC=CC=C34)C(=O)N(C)C2(C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C@@H]1C(C)(C)C 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.ClC1=CC=C([S:61]([CH-:10]Cl)(=[O:62])=[O:72])C=C1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10](Cl)[S:61](C2=CC=C(Cl)C=C2)(=[O:62])=[O:72])[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
"C1C[C:11](=[CH2:10])C1.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[N:21]/[S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH2:10][C+:11]2CCC2)[N-:21][S:32](C2=CC=C(C)C=C2)(=[O:33])=[O:34])[CH:46]=[CH:45]1 10,11=10,20;20,21=21"
C[C:63]1=[CH:62][CH:61]=[N:10][C:71]2=[C:72]1C=CC=C2.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C[C:63]1=[CH:62][CH:61]=[N+:10]([CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:71]2=[C:72]1C=CC=C2 10=20
"Cl[C:20]1=[C:21](Cl)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33].[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH+:10]1[C:20]1(Cl)[C:21](Cl)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]1[CH:20]([O:21][B-:33](Cl)(Cl)Cl)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1 10=20;20,21=21"
"C1CCCCC[C:11](=[CH2:10])CCCC1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C+:20]([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1>>F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([C:20]([CH2:10][C+:11]2CCCCCCCCCC2)([C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:32]1 10,11=10,20"
